US06448270B1
B) 4-Benzyl-1-(4-(3-methylphenyl)-3-butynyl)piperidine
A mixture of 1-mesyl-4-(3-methylphenyl)but-3-yne (214 mg, 0.900 mmol), 4-benzylpiperidine (189 mg, 1.08 mmol) and K2CO3 (370 mg, 2.67 mmol) in 10 mL of CH3CN is refluxed for 12 hr. The mixture is filtered and washed with EtOAc (3×15 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as an oil (90 mg, 31%): 1H NMR (CDCl3) 1.40 (m, 2 H), 1.51 (m, 1 H), 1.65 (m, 2 H), 2.05 (t, J=6.6 Hz, 2 H), 2.31 (s, 3 H), 2.54 (m, 2 H), 2.68 (m, 4 H), 2.97 (d, J=11.4 Hz, 2 H), 7.13-7.28 (m, 9 H).

reactant | 1-mesyl-4-(3-methylphenyl)but-3-yne | 0.900 mmol, 214 mg | S(=O)(=O)(C)CCC#CC1=CC(=CC=C1)C | C12H14O2S
reactant | 4-benzylpiperidine | 1.08 mmol, 189 mg | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | K2CO3 | 2.67 mmol, 370 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-Benzyl-1-(4-(3-methylphenyl)-3-butynyl)piperidine | 90 mg, 31% | C(C1=CC=CC=C1)C1CCN(CC1)CCC#CC1=CC(=CC=C1)C | C23H27N
